US04919706
5-Ethoxy-N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-2-methyl-4-thiazolesulfonamide (I; Q=Q-1, R=CH3, R1 =OC2H5, Z=CH, X=Y=OCH3)
By employing the procedure described in Example 2, the reaction of 1.33 g of 5-ethoxy-2-methyl-4-thiazolesulfonamide with 1.4 g of methyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate in the presence of 3.3 ml of a 2.0M solution of trimethylaluminum, there was obtained 1.2 g of the title compound, m.p. 140°-143°. IR: 1710 cm-1 (C=O).

reactant | 5-ethoxy-2-methyl-4-thiazolesulfonamide | 1.33 g | C(C)OC1=C(N=C(S1)C)S(=O)(=O)N | C6H10N2O3S2
reactant | methyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate | 1.4 g | COC1=NC(=NC(=C1)OC)NC(OC)=O | C8H11N3O4
reactant | trimethylaluminum | C[Al](C)C
product | 5-Ethoxy-N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-2-methyl-4-thiazolesulfonamide | 1.2 g | C(C)OC1=C(N=C(S1)C)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C13H17N5O6S2
